US04188403
4-Benzyloxy-1-cyclopentene is brominated with N-bromosuccinimide in the 3-position. The 4-benzyloxy-3-bromo-1-cyclopentene obtained is reacted with 1-heptanol in the presence of silver oxide and the so obtained 4-benzyloxy-3-heptyloxy-1-cyclopentene is epoxidized with m-chloro-perbenzoic acid.

reactant | 4-Benzyloxy-1-cyclopentene | C(C1=CC=CC=C1)OC1CC=CC1 | C12H14O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 4-benzyloxy-3-bromo-1-cyclopentene | C(C1=CC=CC=C1)OC1C(C=CC1)Br | C12H13BrO
